US04602006
Ethyl 2-Carboethoxy-2-propargylhexanoate
Proceeding similarly, but replacing diethyl n-butylmalonate with diethyl benzylmalonate, ethyl 2-benzyl-2-carboethoxypent-4-ynoate was prepared. Also by replacing diethyl n-butylmalonate with diethyl benzylmalonate, replacing propargyl bromide with 1-bromo-2-butyne, ethyl 2-benzyl-2-carboethoxyhex-4-ynoate was prepared.

reactant | diethyl benzylmalonate | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | ethyl 2-benzyl-2-carboethoxypent-4-ynoate | C(C1=CC=CC=C1)C(C(=O)OCC)(CC#C)C(=O)OCC | C17H20O4
reactant | 1-bromo-2-butyne | BrCC#CC | C4H5Br
reactant | ethyl 2-benzyl-2-carboethoxyhex-4-ynoate | C(C1=CC=CC=C1)C(C(=O)OCC)(CC#CC)C(=O)OCC | C18H22O4
product | Ethyl 2-Carboethoxy-2-propargylhexanoate | C(=O)(OCC)C(C(=O)OCC)(CCCC)CC#C | C14H22O4
